US04162252
3-[2-(4-Benzamido-1-piperidyl)ethyl]indole (indoramin)
A suspension of 4-benzamido-1-[2-(3-indolyl)ethyl] pyridinium bromide (4.2 g.) and sodium borohydride (1.14 g.) in isopropanol (50 ml.) was refluxed for 31/2 hours. After cooling, the reaction mixture was diluted with water (50 ml.). The product was separated by filtration, washed with water then with acetone and dried to give the title compound in 82% yield, m.p. 203°- 5° C.

reactant | 4-benzamido-1-[2-(3-indolyl)ethyl] pyridinium bromide | 4.2 g | [Br-].C(C1=CC=CC=C1)(=O)NC1=CC=[N+](C=C1)CCC1=CNC2=CC=CC=C12
reactant | sodium borohydride | 1.14 g | [BH4-].[Na+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | water | 50 ml | O | H2O
product | 3-[2-(4-Benzamido-1-piperidyl)ethyl]indole | 82% yield | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C22H25N3O
